US04617303
(a) 7-hydroxy-5-methyl-6-[3-(neopentyloxy)-propyl]-1,2,4-triazolo[1,5-a]pyrimidine
22.0 g (90 millimoles) of methyl 2-[3-(neopentyloxy)propyl]-acetoacetate and 7.14 g (84.9 millimoles) of 3-amino -1,2,4-triazole in 300 ml of boiling propionic acid are allowed to react for 21 hours. The mixture is cooled and then evaporated down, the residue is stirred into ice water, the solution is neutralized with 2N NaOH, and the product is filtered off under suction to give 13.5 g (57%) of colorless crystals of melting point 155°-159° C., which are reacted without further purification.

reactant | methyl 2-[3-(neopentyloxy)propyl]-acetoacetate | 90 millimoles, 22.0 g | C(C(C)(C)C)OCCCC(C(=O)OC)C(=O)C | C13H24O4
reactant | 3-amino -1,2,4-triazole | 84.9 millimoles, 7.14 g | NC1=NNC=N1 | C2H4N4
solvent | propionic acid | 300 ml | C(CC)(=O)O | C3H6O2
product | 7-hydroxy-5-methyl-6-[3-(neopentyloxy)-propyl]-1,2,4-triazolo[1,5-a]pyrimidine | 13.5 g, 57% | OC1=C(C(=NC=2N1N=CN2)C)CCCOCC(C)(C)C | C14H22N4O2
